US05446039
5,7-difluoro-2-isopropoxy-1,4-naphthoquinone (Compound 18)
A solution of 0.55 g (2.1 mM) of 5,7-difluoro-1,4-dihydroxy-2-isopropoxy-naphthalene in 20 mL of diethyl ether was added over 0.05 hours to a stirred, room temperature solution of4.05 g (25 mM) of ferric chloride in 46 mL of water and 12 mL of isopropanol. The mixture was stirred for 0.75 hours and then extracted with ethyl acetate. The organic extracts were dried with sodium sulfate, filtered and concentrated to give 0.44 g of tan solid which was recrystalized from 3 mL of warm acetic acid and a few drops of water. After cooling to room temperature, the solid was filtered off, washed withacetonitrile and then water before vacuum drying at room temperature to give 0.057 g of yellow solid. mp 172.0°-173.2°; 1H NMR(CDCl): δ=7.68 (dd, 1H), 7.15 (m, 1H), 6.09 (s, 1H), 4.55 (m, 1H), 1.45(d, 6H).

reactant | 5,7-difluoro-1,4-dihydroxy-2-isopropoxy-naphthalene | 2.1 mM, 0.55 g | FC1=C2C(=CC(=C(C2=CC(=C1)F)O)OC(C)C)O | C13H12F2O3
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | water | 46 mL | O | H2O
solvent | isopropanol | 12 mL | C(C)(C)O | C3H8O
product | 5,7-difluoro-2-isopropoxy-1,4-naphthoquinone | 0.44 g | FC1=C2C(C=C(C(C2=CC(=C1)F)=O)OC(C)C)=O | C13H10F2O3
